US04282365
Step A: Methyl 11-methylene-6,11-dihydrodibenz[b,e]oxepin-2-carboxylate
Dissolve 1 gm. of methyl 11-hydroxy-11-methyl-6,11-dihydrodibenz[b,e]oxepin-2-carboxylate in 100 ml. of benzene containing a few crystals of p-toluenesulfonic acid for 10 minutes. Strip the reaction mixture to dryness to obtain the title product.

reactant | methyl 11-hydroxy-11-methyl-6,11-dihydrodibenz[b,e]oxepin-2-carboxylate | OC1(C2=C(OCC3=C1C=CC=C3)C=CC(=C2)C(=O)OC)C | C17H16O4
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | C1=CC=CC=C1 | C6H6
product | Methyl 11-methylene-6,11-dihydrodibenz[b,e]oxepin-2-carboxylate | C=C1C2=C(OCC3=C1C=CC=C3)C=CC(=C2)C(=O)OC | C17H14O3
